data/oMe_Silver.jsonl
{"reaction_id": "NR-205_1-c1ccc(C(F)(F)F)cc1","level": "easy","name": "Nierenstein reaction","reactants_smiles": ["C(=O)(Cl)(c1ccc(C(F)(F)F)cc1)","C=[N+]=[N-]"],"products_smiles": ["C(=O)(CCl)(c1ccc(C(F)(F)F)cc1)"],"conditions": "None","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([O-])(Cl)(C[N+]#N)(c1ccc(C(F)(F)F)cc1)","step_weight": 0,"rationale": "The carbonyl carbon of the acyl chloride is highly electrophilic due to the electron-withdrawing chloride, enabling nucleophilic attack by diazomethane's terminal carbon, which is nucleophilic from resonance with the adjacent diazonium group."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(CCl)(c1ccc(C(F)(F)F)cc1)","step_weight": 0,"rationale": "The tetrahedral intermediate collapses as chloride, a good leaving group, departs, restoring the carbonyl and forming the α-chloromethyl ketone, favored by the stability of the carbonyl and relief of negative charge on oxygen."}],"description": "In the Nierenstein reaction, diazomethane attacks the electrophilic carbonyl carbon of an acyl chloride, forming a tetrahedral intermediate. Chloride elimination then yields the α-chloromethyl ketone, driven by the stability of the carbonyl and good leaving group ability of chloride."}
{"reaction_id": "NR-235_1-c1ccc(C(F)(F)F)cc1_2-CC_3-C_4-Br","level": "medium","name": "Smiles Rearrangement","reactants_smiles": ["c1ccc(C(F)(F)F)cc1NC(=O)C(CC)(C)Oc1ccc(Br)cc1","CC[O-]"],"products_smiles": ["c1ccc(C(F)(F)F)cc1N(c1ccc(Br)cc1)C(=O)C(CC)(C)O"],"conditions": "CCO","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(C(F)(F)F)cc1[N-]C(=O)C(CC)(C)Oc1ccc(Br)cc1","step_weight": 0,"rationale": "Ethanol’s conjugate base deprotonates the amide nitrogen, increasing its nucleophilicity via negative charge delocalization onto the carbonyl oxygen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[CH-]1C2(C=CC(Br)=C1)OC(CC)(C)C(N2c1ccc(C(F)(F)F)cc1)=O","step_weight": 0,"rationale": "The nitrogen anion attacks the electron-deficient aromatic ring ortho/para to the ether linkage, favored by resonance stabilization of the Meisenheimer complex."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(C(F)(F)F)cc1N(c1ccc(Br)cc1)C(=O)C(CC)(C)[O-]","step_weight": 0,"rationale": "The intermediate collapses, expelling the alkoxide leaving group to restore aromaticity, a strong thermodynamic driving force."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(C(F)(F)F)cc1N(c1ccc(Br)cc1)C(=O)C(CC)(C)O","step_weight": 0,"rationale": "The alkoxide oxygen is protonated by solvent ethanol, yielding the neutral hydroxyacetamide product."}],"description": "Under basic ethanol conditions, the amide nitrogen is deprotonated to form a strong nucleophile. This anion attacks the electron-deficient aromatic ring intramolecularly, forming a Meisenheimer complex. Collapse of this intermediate expels the alkoxide, restoring aromaticity, and protonation yields the rearranged hydroxyacetamide."}
{"reaction_id": "NR-149_1-C_2-CC","name": "Myers Asymmetric Alkylation","level": "medium","reactants_smiles": ["CCC(=O)N(C)C(C)C(O)c1ccccc1","BrCC"],"products_smiles": ["CCC(C)C(=O)N(C)C(C)C(O)c1ccccc1"],"conditions": "LDA","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C/C=C(\\[O-])/N(C)C(C)C([O-])c1ccccc1","rationale": "LDA, a strong non-nucleophilic base, selectively deprotonates the α-position due to acidity enhanced by resonance stabilization of the enolate through the carbonyl and auxiliary."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "CCC(C)C(=O)N(C)C(C)C([O-])c1ccccc1","rationale": "The enolate acts as a strong nucleophile, attacking the electrophilic carbon of the alkyl bromide in an SN2 process, favored by the good leaving ability of bromide and minimal steric hindrance."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CCC(C)C(=O)N(C)C(C)C(O)c1ccccc1","rationale": "The alkoxide intermediate is protonated under workup conditions, restoring the neutral alcohol and completing the formation of the alkylated product."}],"description": "Under strong base (LDA), the Myers auxiliary amide undergoes deprotonation to form a stabilized enolate, which then performs an SN2 alkylation with the alkyl bromide. Final protonation yields the chiral alkylated product with high stereocontrol from the auxiliary."}
